US04003999
An aqueous solution of sodium acetylsalicylate was prepared using 50.0 g. of aspirin, 17.3 g. of sodium carbonate hydrate and 1,425 ml. water at room temperature (25° C.). After solution of all solids had occurred, 15.0 g. of instant tea was added while stirring at room temperature (25° C.). To the aqueous solution was added with rapid stirring in about 5-30 seconds 140 ml. of 2N H2SO4 and stirring was continued for 15 minutes at room temperature. The pH of the reaction mixture was after acidification was 2.6. The aqueous slurry under constant agitation was immediately thereafter spray dried in a Nichols portable spray drier (Minor Type 53) using a Nitro atomizer having a rotational speed of 31,000 r.p.m. The operating temperatures were 165° C. on the inlet side and exhaust temperatures were just under 80° C. The spray dried product weighed 76.2 g. and was light tan in color. Analysis of the spray dried product containing the coprecipitate showed it contained 56% aspirin, 0.32% salicylic acid and 1.8% water. Tea content of the spray dried product is approximately 18.8 weight %.

reactant | aspirin | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
reactant | sodium carbonate hydrate | O.C([O-])([O-])=O.[Na+].[Na+]
reactant | H2SO4 | 2N | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | sodium acetylsalicylate | C(C)(=O)OC=1C(C(=O)[O-])=CC=CC1.[Na+] | InChI=1S/C9H8O4.Na/c1-6(10)13-8-5-3-2-4-7(8)9(11)12;/h2-5H,1H3,(H,11,12);/q;+1/p-1
